US05308854
Step B: Preparation of 2-methoxy-3-(2-aminoethyl)-5-ethyl-6-methylpyridine
A suspension of 2-methoxy-3-(2-nitroethenyl)-5-ethyl-6-methylpyridine (445 mg, 2.0 mmol) in methanol (10 mL) and 4.7M methanolic hydrogen chloride (2 mL) containing 5% palladium/carbon (110 mg) was hydrogenated at atmospheric pressure over 10-20 hours. The catalyst was filtered off and the solvent evaporated. The residue was made basic with sodium hydroxide solution and the product extracted into methylene chloride, dried, filtered and the solvent evaporated to yield 332 mg of crude oily product. No further purification was performed.

reactant | 2-methoxy-3-(2-nitroethenyl)-5-ethyl-6-methylpyridine | 2.0 mmol, 445 mg | COC1=NC(=C(C=C1C=C[N+](=O)[O-])CC)C | C11H14N2O3
solvent | methanol | 10 mL | CO | CH4O
solvent | hydrogen chloride | 4.7M, 2 mL | Cl | ClH
catalyst | palladium/carbon | 110 mg | [Pd] | Pd
product | 2-methoxy-3-(2-aminoethyl)-5-ethyl-6-methylpyridine | COC1=NC(=C(C=C1CCN)CC)C | C11H18N2O
